US07253282B2
A solution of 0.71 g (1.87 mmol) of trans 4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexylamine in 5 mL of CH2Cl2 was treated with 0.64 mL (3.74 mmol) of DIPEA and 0.24 mL (1.87 mmol) of benzenesulfonylchloride and stirred at RT for 3 hrs. Distribution of the crude mixture between a diluted aqueous solution of HCl and Et2O, drying of the combined organic phases over Na2SO4 and chromatography on silica gel with EtOAc/heptane 1:1 gave 0.9 g (93%) of trans-N-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-benzenesulfonamide as a light yellow semisolid, MS: 518 (M−H).

reactant | trans 4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexylamine | 1.87 mmol, 0.71 g | FC(C(C(F)(F)F)(O[Si](CC)(CC)CC)[C@@H]1CC[C@H](CC1)N)(F)F | C15H27F6NOSi
reactant | DIPEA | 3.74 mmol, 0.64 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzenesulfonylchloride | 1.87 mmol, 0.24 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | trans-N-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-benzenesulfonamide | 0.9 g, 93% | FC(C(C(F)(F)F)(O[Si](CC)(CC)CC)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C1=CC=CC=C1)(F)F | C21H31F6NO3SSi
